US03933804
A mixture of 7.2 g (0.05 mol) of 5-isopropoxy-2-penten-1-ol, 6.9 g (0.05 mol) of 3,4-methylendioxy-phenol, and 10.3 g (0.05 mol) of dicyclohexyl-carbodiimide is stirred at 105° for 16 hours. After cooling 50 cc of ether are added, the mixture is filtered and the filtrate is evaporated. The residue is chromatographed on silica gel with hexane/ethyl acetate 9 : 1 and 5-(5-isopropoxy-2-pentenyloxy)-1,3-benzodioxol is obtained as colourless oil which is identical with the product produced in accordance with Example 39.

reactant | 5-isopropoxy-2-penten-1-ol | 0.05 mol, 7.2 g | C(C)(C)OCCC=CCO | C8H16O2
reactant | 3,4-methylendioxy-phenol | 0.05 mol, 6.9 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | dicyclohexyl-carbodiimide | 0.05 mol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ether | 50 cc | CCOCC | C4H10O
product | 5-(5-isopropoxy-2-pentenyloxy)-1,3-benzodioxol | C(C)(C)OCCC=CCOC1=CC2=C(OCO2)C=C1 | C15H20O4
